US05436256
A mixture of 30.6 g of glyoxylic acid butyl ester butyl hemiacetal (0.15 mol), 30.0 g of urea (0.5 mol), 300 g of n-butanol and 7.5 g of 8% strength butanolic sulfuric acid was heated at 85° C. for a total of 4 hours. After the reaction had ended, the suspension formed was cooled to room temperature, whereupon a colorless precipitate separated out, which was filtered off, washed with methanol and dried in vacuo at 75° C. 23.1 g, that is to say 66% of theory, of crystalline allantoin acid butyl ester were obtained by this reaction.

reactant | urea | 0.5 mol, 30.0 g | NC(=O)N | CH4N2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | n-butanol | 300 g | C(CCC)O | C4H10O
product | allantoin | C1(C(=O)NC(=O)N1)NC(=O)N | C4H6N4O3
